US07217714B1
tert-Butyl 4-(aminocarbonyl)-1-piperidinecarboxylate
Ethyl chloroformate (4.6 ml, 48.3 mmol) was added slowly to a solution of 1-(tert-butoxycarbonyl)4-piperidinecarboxylic acid (10 g, 43.6 mmol) in dichloromethane (100 ml) stirred at 0° C. Triethylamine (7.6 ml, 52.3 mmol) was added with stirring over two minutes. 0.88 Ammonia solution (40 ml) was added and the mixture allowed to warm to room temperature with stirring. The mixture was washed with water, 1M citric acid solution and brine, dried (MgSO4), filtered and evaporated under reduced pressure gave the title compound as white solid, 8.94 g.

reactant | Ethyl chloroformate | 48.3 mmol, 4.6 ml | ClC(=O)OCC | C3H5ClO2
reactant | 1-(tert-butoxycarbonyl)4-piperidinecarboxylic acid | 43.6 mmol, 10 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | Triethylamine | 52.3 mmol, 7.6 ml | C(C)N(CC)CC | C6H15N
reactant | Ammonia | 40 ml | N | H3N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | tert-Butyl 4-(aminocarbonyl)-1-piperidinecarboxylate | NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H20N2O3
